US07582760B2
To a Parr vessel flushed with nitrogen was added a 5% dispersion of platinum on charcoal (15 mg) followed by a solution of 3-benzyl-7-(1-tert-butoxycarbonyl-1H-pyrrol-3-yl)-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester (0.150 g., 0.307 mmol) in 10 mL methanol. The Parr vessel was vacuum-purged with hydrogen at atmospheric pressure and stirred for 95 hours. The reaction mixture was then vacuum-purged with nitrogen, filtered through a plug of celite to remove catalyst, and concentrated in vacuo. The resulting residue was purified by flash chromatography (5 to 10% gradient ethyl acetate in hexanes) to give 80 mg of racemic 3-benzyl-7-(1-tert-butoxycarbonyl-pyrrolidin-3-yl)-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester as a clear oil. MS: 516 (M+Na)+.

reactant | 3-benzyl-7-(1-tert-butoxycarbonyl-1H-pyrrol-3-yl)-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.307 mmol, 0.150 g | C(C)(C)(C)OC(=O)N1C(N(C2=C1C(=CC=C2)C2=CN(C=C2)C(=O)OC(C)(C)C)CC2=CC=CC=C2)=O | C28H31N3O5
solvent | methanol | 10 mL | CO | CH4O
product | racemic 3-benzyl-7-(1-tert-butoxycarbonyl-pyrrolidin-3-yl)-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 80 mg | C(C)(C)(C)OC(=O)N1C(N(C2=C1C(=CC=C2)C2CN(CC2)C(=O)OC(C)(C)C)CC2=CC=CC=C2)=O | C28H35N3O5
